US06084095
Acetyl chloride (0.70 mL, 9.84 mmol) is added to a solution of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (0.20 g, 1.04 mmol) (described in a previous experimental) and Et3N (1.51 mL, 10.8 mmol) in THF at 0° C., and then the mixture is stirred at 20° C. for 4 h. Water (50 mL) was added, then the solution was extracted with EtOAc (3×50 mL). Evaporation and chromatography on alumina (1% EtOH/CHCl3) yields 7-acetylamino-4-methylthiopyrido[4,3-d]pyrimidine (0.12 g, 49%) as a yellow solid. 1H NMR (DMSO) δ 11.05 (1H, s), 9.30 (1H, s), 9.02 (1H, s), 8.38 (1H, s), 2.71 (3H, s), 2.18 (3H, s)

reactant | Acetyl chloride | 9.84 mmol, 0.70 mL | C(C)(=O)Cl | C2H3ClO
reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.04 mmol, 0.20 g | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | Et3N | 10.8 mmol, 1.51 mL | CCN(CC)CC | C6H15N
reactant | Water | 50 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 7-acetylamino-4-methylthiopyrido[4,3-d]pyrimidine | 0.12 g, 49% | C(C)(=O)NC1=CC=2N=CN=C(C2C=N1)SC | C10H10N4OS
